US09260422B2
4-[6-(3-Chloro-4-isopropoxy-phenyl)-pyrimidin-4-yl]-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester
10% Palladium on carbon (0.22 g, 0.21 mmol) was added in one portion to a stirred solution of 4-[6-(3-chloro-4-isopropoxy-phenyl)-pyrimidin-4-yl]-2,3-dihydro-pyrrole-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester (0.03 g, 0.06 mmol) in EtOAc (15 ml) and the mixture was stirred at room temperature under a hydrogen atmosphere for 24 hours. After this time, the mixture was filtered through celite and the resulting filtrate concentrated to give the title compound (0.03 g, 22% yield) as a colourless oil. Tr=2.61 min m/z (ES+) (M+H+) 476.

reactant | 4-[6-(3-chloro-4-isopropoxy-phenyl)-pyrimidin-4-yl]-2,3-dihydro-pyrrole-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester | 0.06 mmol, 0.03 g | COC(=O)C1N(C=C(C1)C1=NC=NC(=C1)C1=CC(=C(C=C1)OC(C)C)Cl)C(=O)OC(C)(C)C | C24H28ClN3O5
catalyst | Palladium on carbon | 0.21 mmol, 0.22 g | [Pd] | Pd
solvent | EtOAc | 15 ml | CCOC(=O)C | C4H8O2
product | 4-[6-(3-Chloro-4-isopropoxy-phenyl)-pyrimidin-4-yl]-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester | 0.03 g, 22% yield | COC(=O)C1N(CC(C1)C1=NC=NC(=C1)C1=CC(=C(C=C1)OC(C)C)Cl)C(=O)OC(C)(C)C | C24H30ClN3O5
